US06177452B1
Bromine (46.5 g) was added dropwise to a dichloromethane (400 ml) solution of methyl 4-(4-chlorobenzoyl)butyrate (70.0 g). After stirring for 15 minutes, the reaction mixture was washed with water, dried (MgSO4), and concentrated to obtain methyl 4-bromo-4-(chlorobenzoyl)butyrate (89.5 g, 96%) as an oily substance. NMR (δ ppm in CDCl3): 2.3-2.7(4 H,m), 3.71(3H,s), 5.33(1H,dd,J=8&5.5 Hz), 7.48(2H,d,J=8.5 Hz), 7.98(2H,d,J=8.5 Hz).

reactant | Bromine | 46.5 g | BrBr | Br2
reactant | methyl 4-(4-chlorobenzoyl)butyrate | 70.0 g | ClC1=CC=C(C(=O)CCCC(=O)OC)C=C1 | C12H13ClO3
reactant | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | methyl 4-bromo-4-(chlorobenzoyl)butyrate | 89.5 g, 96% | BrC(CCC(=O)OC)C(C1=C(C=CC=C1)Cl)=O | C12H12BrClO3
